US08309577B2
Step B: 6,7-Dimethoxyisoquinolin-3-amine
To N-(3,4-dimethoxybenzyl)-2,2-diethoxyacetimidamide (541 mg, 1.825 mmol) was added sulfuric acid (0.95 mL, 1.825 mmol) was added. After cooling, the reaction was allowed to stand at ambient temperature overnight. It was added dropwise to ice, then the resulting solution was neutralized with conc. NaOH, and the aqueous phase was twice extracted with ethyl acetate. The combined ethyl acetate fractions were dried over magnesium sulfate. The drying agent was filtered off and the solvent evaporated. The residue was purified by column chromatography in 5% methanol/ethyl acetate, collecting the main component. Yield 105.7 mg brown solid (28%).

reactant | N-(3,4-dimethoxybenzyl)-2,2-diethoxyacetimidamide | 1.825 mmol, 541 mg | COC=1C=C(CNC(C(OCC)OCC)=N)C=CC1OC | C15H24N2O4
reactant | sulfuric acid | 1.825 mmol, 0.95 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
product | 6,7-Dimethoxyisoquinolin-3-amine | COC=1C=C2C=C(N=CC2=CC1OC)N | C11H12N2O2
